US04672066
The reaction of 0.635 g of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid with 0.28 g of 3-pyridine butanamine according to Example 40 gave 0.80 g, mp 133°-134°, (93% yield) of 4-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]-N-[4-(3-pyridinyl)butyl]benzamide, the title compound.

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]benzoic acid | 0.635 g | C(C)(=O)C1=C(C(=C(OCCCOC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C21H24O6
reactant | 3-pyridine butanamine | 0.28 g | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 4-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)propoxy]-N-[4-(3-pyridinyl)butyl]benzamide | 93% yield | C(C)(=O)C1=C(C(=C(OCCCOC2=CC=C(C(=O)NCCCCC=3C=NC=CC3)C=C2)C=C1)CCC)O | C30H36N2O5
